US05036075
The experiment is carried out as in Example 1, starting with 2-(3-chloropropyl)naphtho[1,8-cd]isothiazole 1,1-dioxide (5.3 g), triethylamine (2.6 cc), 4-(4-chlorophenyl) piperazine (5 g) and sodium iodide (2.8 g) in toluene (50 cc). The mixture is heated for 6 hours at boiling point, then cooled to a temperature of about 20° C. After recrystallization, firstly from boiling acetonitrile 6 hours and secondly from boiling methyl ethyl ketone (15 cc), 2-{3-[4-(4-chlorophenyl)-1-piperazinyl ]propyl}naptho[1,8-cd]isothiazole 1,1-dioxide (3 g) is obtained, m.p. 120° C.

reactant | 2-(3-chloropropyl)naphtho[1,8-cd]isothiazole 1,1-dioxide | 5.3 g | ClCCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C13H12ClNO2S
reactant | triethylamine | 2.6 cc | C(C)N(CC)CC | C6H15N
reactant | 4-(4-chlorophenyl) piperazine | 5 g | ClC1=CC=C(C=C1)N1CCNCC1 | C10H13ClN2
reactant | sodium iodide | 2.8 g | [I-].[Na+]
solvent | toluene | 50 cc | C1(=CC=CC=C1)C | C7H8
product | 2-{3-[4-(4-chlorophenyl)-1-piperazinyl ]propyl}naptho[1,8-cd]isothiazole 1,1-dioxide | 3 g | ClC1=CC=C(C=C1)N1CCN(CC1)CCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C23H24ClN3O2S
